Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
morphine
 
Attending: ___
 
___ Complaint:
Confusion and hypotension
 
Major Surgical or Invasive Procedure:
Left Percutaneous nephrostomy tube 
 
History of Present Illness:
Mr. ___ is a ___ year old male with a history of prostate 
cancer
s/p XRT with metastatic osseus recurrence involving spine and 
prostatic mass invading bladder on Lupron and Xytiga, 
hypertension, hyperlipidemia, who presents with worsening 
confusion and hypotension. He states that he has had chills, 
dyspnea, and abdominal pain. Denies black or bloody stools.

In the ED, initial vitals were T 98.6, HR 100, BP 81/48, RR 20, 
and O2 93% on RA. On repeat measurement, patient remained 
hypotensive with SBP 70-80s, and had worsening tachypnea ranging 
from ___. Exam was notable for diffuse abdominal tenderness 
and distention and has baseline urinary incontinence. He also 
had marked LLE swelling. Labs were notable for WBC of 4.8 with 
27 bands, anemia with H/H 9.5/28.3, proBNP 1579, anion gap of 
22, and a lactate of 6.3 with VBP 7.42/38/20. UA showed RBC > 
182, WBC >182, small leuk, and neg nitrite. CT Head was 
remarkable for left temporal mass measuring 2.8x1.9cm with 
adjacent vasogenic edema that is new since ___. CT A/P 
was revealing for 4mm left ureteral stone with moderate left 
hydroureteronephrosis, unchanged in degree since ___, 
but with possibility of forniceal rupture. Diffuse thickening of 
the posterior and left lateral urinary bladder wall is 
concerning for malignancy. Patient was given 2L NS, 2 doses of 
vancomycin and zosyn. Patient was not responsive to 2L fluid 
bolus and was started on norepinephrine gtt at 0.1, uptitrated 
to 0.18 mcg/kg. Repeat lactate was 1.8 Neurosurgery was 
consulted and they will defer active management until evaluated 
by neurooncology. Urology was also consulted and patient was 
sent for percutaneous nephrostomy for likely infected stone.

MD was called to ___ suite for tachycardia (160s-170s) and 
hypotension (MAPs ___. He received 1 L LR, was brought up to 
the MICU where he was diffusely wheezing + anesthesia was called 
to intubate him. Following intubation, we pushed 6 + 12 of 
adenosine for HRs in 160s-170s. Following adensosine, his HR 
normal dec to 110s and an EKG was sinus tachycardia. At 
approximately 1030 pm, his BP continued to drop, a second L of 
LR was given and vasopressin was added. We provided stress dose 
steroids. 

 
Past Medical History:
HTN
HLD
BPH
Prostate Cancer s/p brachytherapy 
 
Social History:
___
Family History:
Brother had colon cancer. no known relatives with prostate 
cancer.
 
Physical Exam:
ADMISSION PHYSICAL:
============================
VITALS: Reviewed in Metavision
HEENT: Sclera anicteric, MMM, oropharynx clear  
NECK: JVP not elevated, no LAD  
LUNGS: Clear to auscultation bilaterally, no wheezes, rales, 
rhonchi  
CV: Regular rate and rhythm, normal S1 S2, no murmurs, rubs, 
gallops  
ABD: soft, non-tender, non-distended, bowel sounds present, no 
rebound tenderness or guarding, no organomegaly  
EXT: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema  

DISCHARGE PHYSICAL:
No breath sounds or cardiac activity after 1 minute of 
auscultation
Fixed dilate pupils
No withdrawal to noxious stimuli.

 
Pertinent Results:
ADMISSION LABS
___ 12:32PM BLOOD WBC-4.8 RBC-2.89* Hgb-9.5* Hct-28.3* 
MCV-98 MCH-32.9* MCHC-33.6 RDW-15.9* RDWSD-55.2* Plt ___
___ 12:32PM BLOOD ___ PTT-29.7 ___
___ 12:32PM BLOOD Glucose-172* UreaN-16 Creat-1.2 Na-141 
K-3.8 Cl-97 HCO3-22 AnGap-22*
___ 12:32PM BLOOD ALT-14 AST-13 AlkPhos-78 TotBili-0.4
___ 12:39PM BLOOD ___ pO2-20* pCO2-38 pH-7.42 
calTCO2-25 Base XS--1
___ 12:42PM BLOOD Lactate-6.3*

IMAGING
___ CT HEAD W/O CONTRAST
1
.
 
A
 
l
e
f
t
 
t
emporal lobe mass measuring 2.8 x 1.9 cm with adjacent vasogenic
e
d
e
m
a
 
i
s
 
c
o
n
c
e
rning for metastatic disease and is new since ___.  No 
a
d
d
i
t
i
onal intracranial lesions are identified, though evaluation with
n
o
n
c
o
n
t
r
a
s
t
 
C
T
 is limited.  If further evaluation for additional metastases is 
warranted, dedicated brain MRI with contrast is recommended.
2
.
 
N
e
w
 
l
u
c
e
ncy in the posterior aspect of the right C1 lateral mass eroding
t
h
e
 
t
r
a
n
sverse foramen cortex probably reflects a new metastatic lesion.
3. Paranasal sinus disease.

CTA Abdomen and CHEST
IMPRESSION:

1
.
 
N
o
 
e
v
i
d
___ of pulmonary embolus to the segmental level or acute aortic
s
y
n
d
r
o
m
e
.
 
 
P
l
ease note that assessment of the subsegmental pulmonary arterial 
level is limited due to timing of the contrast bolus.
2
.
 
M
o
d
e
r
a
te left hydroureteronephrosis which is unchanged in degree since
F
e
b
r
u
a
r
y
 
___, but with the increased perinephric fat stranding and fluid
r
a
i
s
i
n
g
 
t
h
e
 
p
ossibility forniceal rupture.  There is also an obstructing 4 mm 
s
t
o
n
e
 
i
n
 
t
he distal left ureter.  Recommend correlation with urinalysis to
assess for superimposed infection of the urinary tract.
3
.
 
D
i
f
f
u
s
e
 
t
hickening of the posterior and left lateral urinary bladder wall 
i
s
 
c
o
ncerning for malignancy, with post radiation changes also in the
d
i
f
f
e
r
e
n
t
i
a
l
.
  Correlation with urine cytology and cystoscopy is recommended, 
i
f
 
c
l
i
n
i
c
a
l
l
y indicated.  There is an additional soft tissue nodule adjacent 
to the anterior right urinary bladder which could be metastatic.
4
.
 
I
n
t
erval progression of osseous metastatic disease with compression
f
r
a
c
t
u
r
e
s
 
i
n
v
olving C7 and L2.  No osseous retropulsion. A large lytic lesion 
i
n
v
o
l
v
e
s
 the left acetabulum and puts the patient at risk for pathologic
fracture.
5
.
 
M
i
l
d
 
a
i
r
w
ay secretions and bronchial wall thickening with mucous plugging 
suggestive of chronic airways inflammation.
6. Moderate calcified coronary atherosclerosis.
7. Mild centrilobular emphysema.
8. Diverticulosis.

___
MR HEAD
T
h
e
r
e
 
i
s
 
a
n expansile lesion with its epicenter in the greater wing of the
l
e
f
t
 
s
p
h
e
n
oid bone with intracranial extension but this mass appears to be
e
x
t
r
a
-
a
x
i
a
l
 which would be consistent with bony prostate metastatic disease
with involvement of the brain.
 
S
m
a
l
l
e
r
 
e
n
h
a
n
cing lesions also noted in the clivus, occipital bone as well as 
C1 as described above.

___ MR ___
IMPRESSION:
 
 
1
.
 
N
e
w
 
p
a
t
h
o
logical fracture of the C7 vertebral body.  No compromise of the 
c
e
r
v
i
c
a
l
 
c
o
rd in the central canal.  There is involvement of the right C6-7
neural foramen by soft tissue changes.
2
.
 
M
u
l
t
i
p
l
e
 
b
o
ny metastatic lesions most of them being present on the prior MR 
___
h
o
r
a
c
i
c
 
a
nd lumbar spine scout view dated ___ (not dedicated
___ MR).
3
.
 
T
h
e
 
r
i
g
h
t
 
lateral mass C1 lesion is increased in size compared to prior CT 
C spine done ___.
4
.
 
T
h
e
 
l
e
f
t
 
f
irst rib lesion is again noted and difficult to compare to prior 
imaging due to different modalities.  Grossly similar.

___ URINE CYTOLOGY
SUSPICIOUS FOR MALIGNANCY. 
- Scattered highly atypical cells, present in a background of 
blood, fibrinous debris, and benign-appearing urothelial cells.
The findings are suspicious for bladder involvement by prostate 
cancer. If clinically indicated, cystoscopy with biopsy could be 
considered for further characterization of the atypical cells. 
Clinical and radiologic correlation is advised.

 
Brief Hospital Course:
Mr. ___ was a ___ year old male with history of prostate cancer 
s/p XRT with metastatic ossues recurrence and bladder 
involvement, who presented with confusion, chills and abdominal 
pain in septic shock, found to have obstructing left ureteral 
stone with moderate hyproutereronephrosis and new calvarial met 
with temporal lobe compression.  On admission he received a left 
percutaneous nephrostomy, which decompressed his hydronephrosis 
and was treated for pyelonephritis ___ obstructing urothelial 
stone.  His multiple bone mets were assessed with MRI and CT, 
demonstrating worsening spinal lesions and new calvarial 
metastasis thought to be causing worsening mental status.  He 
was intubated for the initial PCN procedure in the setting of 
shock, and was unable to be extubated during his hospitalization 
due to alteration of mental status and neurogenic breathing 
patterns with prolonged periods of apnea interspersed with brief 
breathing episodes of ___ breaths.  

Goals of care were discussed with his family, who elected to 
extubate with DNI status ___ in the setting of worsening 
metastatic disease and unchanged critical clinical condition.  
He was made comfort measures only and expired at 1308 on 
___.

     
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Metoprolol Tartrate 50 mg PO BID 
2. Mirtazapine 15 mg PO QHS 
3. Omeprazole 40 mg PO BID 
4. Oxybutynin 5 mg PO BID 
5. Senna 17.2 mg PO QHS 
6. Simvastatin 10 mg PO QPM 
7. Vitamin D3 (cholecalciferol (vitamin D3)) 1,000 unit oral 
DAILY 
8. Acetaminophen 325 mg PO Q6H:PRN Pain - Mild 
9. Albuterol 0.083% Neb Soln 1 NEB IH Q4H:PRN SOB/Wheeze 
10. Polyethylene Glycol 17 g PO DAILY:PRN constipation 
11. Dexamethasone 2 mg PO DAILY 
12. Zytiga (abiraterone) 1000 mg oral DAILY 
13. amLODIPine 5 mg PO DAILY 
14. Aspirin 81 mg PO DAILY 
15. Calcium 500 (calcium carbonate) 500 mg calcium (1,250 mg) 
oral DAILY 
16. Docusate Sodium 100 mg PO BID 
17. Doxazosin 4 mg PO DAILY 
18. Enoxaparin Sodium 40 mg SC DAILY 
Start: ___, First Dose: Next Routine Administration Time 
19. Furosemide 20 mg PO DAILY 

 
Discharge Medications:
Deceased
 
Discharge Disposition:
Expired
 
Discharge Diagnosis:
Deceased
 
Discharge Condition:
Deceased
 
Discharge Instructions:
Deceased
 
Followup Instructions:
___